US05292452
A mixture of 1.65 g of 2-(3,4-difluorophenyl)-5-[4-(1,3-dioxan-2-yl)cyclohexyl]pyridine, 15 ml of toluene and 10 ml of formic acid is stirred at room temperature for 10 hours and subsequently carefully neutralized to pH 7 with saturated sodium carbonate solution. The aqueous phase is separated and extracted twice with toluene, the organic phases are combined, washed with water, dried over sodium sulphate and evaporated. The residue is dissolved in 15 ml of methanol and added dropwise to 10 ml of 0.1N methanolic potassium hydroxide solution cooled to 0° C. The mixture is stirred at 0° C. for 1 hour, poured on to 40 ml of ice-water and extracted three times with 25 ml of diethyl ether each time. The organic phases are combined, washed neutral with water, dried over sodium sulphate and, after evaporation, give trans-4[2-(3,4-difluorophenyl)-5-pyridyl]-cyclohexanecarboxaldehyde (cis content about 8%).

reactant | 2-(3,4-difluorophenyl)-5-[4-(1,3-dioxan-2-yl)cyclohexyl]pyridine | 1.65 g | FC=1C=C(C=CC1F)C1=NC=C(C=C1)C1CCC(CC1)C1OCCCO1 | C21H23F2NO2
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | trans-4[2-(3,4-difluorophenyl)-5-pyridyl]-cyclohexanecarboxaldehyde | about 8% | FC=1C=C(C=CC1F)C1=NC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C18H17F2NO
